US06268391B1
5-(3-methyl-butanoyl)-1,3-dihydro-indol-2-one
Aluminum trichloride (10.7 g, 7.5 mmole) was placed in a round bottom flask under nitrogen at room temperature. Dimethylformamide (1.7 mL) was added dropwise, which produced an exothermic reaction. The reaction stood for 15 minutes before the addition of oxindole (1 g, 7.5 mmole) followed by 3-methyl-butanoyl chloride (0.96 g, 8 mmole). The reaction was heated to 70° C. for 60 minutes. The reaction was poured onto crushed ice (100 g) with concentrated hydrochloric acid added (10 mL). The aqueous layer was extracted with EtOAc (100 mL). The organic layer was washed with a saturated NaCl (aqueous) solution, dried over MgSO4. The volatiles were removed in vacuo to afford the desired compound (1.38 g, 85%). 1H NMR (DMSO-d6): d 10.71 (s, 1H); 7.82 (d, J=8, 1H); 7.77 (s, 1H); 6.86 (d, J=8, 1H); 3.51 (s, 2H); 2.76 (d, J=7, 2H); 2.13-2.05 (m, 1H ); 0.88 (d, J=7, 6H) ESI-MS: m/z 216 (m−H)−.

reactant | Aluminum trichloride | 7.5 mmole, 10.7 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | oxindole | 7.5 mmole, 1 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 3-methyl-butanoyl chloride | 8 mmole, 0.96 g | CC(CC(=O)Cl)C | C5H9ClO
reactant | hydrochloric acid | Cl | ClH
solvent | Dimethylformamide | 1.7 mL | CN(C=O)C | C3H7NO
product | 5-(3-methyl-butanoyl)-1,3-dihydro-indol-2-one | 1.38 g, 85% | CC(CC(=O)C=1C=C2CC(NC2=CC1)=O)C | C13H15NO2
